US07820665B2
N-(6-(6-Chloro-5-(3-(difluoromethoxy)phenylsulfonamido)pyridin-3-yl)-3-(2-methylpyridin-4-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide
Following the procedure described in Example 44 (Step 5) N-(6-(6-chloro-5-(3-(difluoromethoxy)phenylsulfonamido)pyridin-3-yl)-3-iodoimidazo[1,2-b]pyridazin-2-yl)acetamide (114.0 mg, 180 μmol) was combined with 2-methylpyridin-4-ylboronic acid (30 mg, 216 μmol) to afford the title compound, N-(6-(6-chloro-5-(3-(difluoromethoxy)phenylsulfonamido)pyridin-3-yl)-3-(2-methylpyridin-4-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide as a yellow solid. LCMS (ESI positive ion) m/z: 600.0 (M+1); 1H NMR (400 MHz, MeOH) δ ppm 2.21 (s, 3H), 2.67 (s, 3H), 6.80 (t, J=73.11 Hz, 1H), 7.35 (dd, J=8.22, 1.96 Hz, 1H), 7.47 (t, J=8.07 Hz, 1H), 7.54 (s, 1H), 7.57-7.64 (m, 1H), 7.80-7.85 (m, 1H), 7.86-7.96 (m, 2H), 8.14 (d, J=9.49 Hz, 1H), 8.57 (d, J=5.38 Hz, 1H), 8.74 (dd, J=22.45, 2.20 Hz, 2H).

reactant | N-(6-(6-chloro-5-(3-(difluoromethoxy)phenylsulfonamido)pyridin-3-yl)-3-iodoimidazo[1,2-b]pyridazin-2-yl)acetamide | 180 μmol, 114.0 mg | ClC1=C(C=C(C=N1)C=1C=CC=2N(N1)C(=C(N2)NC(C)=O)I)NS(=O)(=O)C2=CC(=CC=C2)OC(F)F | C20H14ClF2IN6O4S
reactant | 2-methylpyridin-4-ylboronic acid | 216 μmol, 30 mg | CC1=NC=CC(=C1)B(O)O | C6H8BNO2
product | N-(6-(6-chloro-5-(3-(difluoromethoxy)phenylsulfonamido)pyridin-3-yl)-3-(2-methylpyridin-4-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide | ClC1=C(C=C(C=N1)C=1C=CC=2N(N1)C(=C(N2)NC(C)=O)C2=CC(=NC=C2)C)NS(=O)(=O)C2=CC(=CC=C2)OC(F)F | C26H20ClF2N7O4S
